US05302390
(a) 2-Amino-4-bromotoluene
4-Bromo-2-nitrotoluene (13.5 g, 62.5 mmol) and granulated tin (11.25 g, 95 mmol) were placed in a round bottomed flask to which concentrated hydrochloric acid (25 ml) was added in small (ca 5 ml) aliquots. A gentle reaction was evident during this addition period. When all the acid had been added the reaction mixture was heated and stirred at about 100° C. for 4 h. The solution was allowed to cool and a solution of sodium hydroxide (18.75 g) in water (32 ml) was added. The solution was heated at 100° C. for 1 h. After cooling, water (200 ml) was added and the solution was filtered. The aqueous filtrate was extracted with diethyl ether (200 ml). The filtered salts were also extracted with diethyl ether (200 ml). The combined organic layers were dried, filtered and evaporated to leave an oil. This was purified by distillation (112° C. at 4 mm Hg) to leave the title compound (6.76 g, 58%).

reactant | 4-Bromo-2-nitrotoluene | 62.5 mmol, 13.5 g | BrC1=CC(=C(C=C1)C)[N+](=O)[O-] | C7H6BrNO2
reactant | tin | 95 mmol, 11.25 g | [Sn] | Sn
reactant | hydrochloric acid | 25 ml | Cl | ClH
reactant | sodium hydroxide | 18.75 g | [OH-].[Na+]
solvent | water | 32 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | 2-Amino-4-bromotoluene | 6.76 g, 58% | NC1=C(C=CC(=C1)Br)C | C7H8BrN
